US06395739B1
Separately, a suspension of (S)-3-[4-[3-[4-(2-methoxyphenyl)piperazin-1-yl]-1-(4-methylphenyl)propoxy]benzoyl]indole hydrochloride (2.0 g) in in methylene chloride was partitioned by addition of saturated sodium bicarbonate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. The residue was recrystallized from a solvent mixture of ethyl acetate and diisopropyl ether, to thereby obtain 1.4 g of (S)-3-[4-[3-[4-(2-methoxyphenyl)piperazin-1-yl]-1-(4-methylphenyl)propoxy]benzoyl]indole as light-yellow crystals.

reactant | (S)-3-[4-[3-[4-(2-methoxyphenyl)piperazin-1-yl]-1-(4-methylphenyl)propoxy]benzoyl]indole hydrochloride | 2.0 g | Cl.COC1=C(C=CC=C1)N1CCN(CC1)CC[C@H](OC1=CC=C(C(=O)C2=CNC3=CC=CC=C23)C=C1)C1=CC=C(C=C1)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (S)-3-[4-[3-[4-(2-methoxyphenyl)piperazin-1-yl]-1-(4-methylphenyl)propoxy]benzoyl]indole | 1.4 g | COC1=C(C=CC=C1)N1CCN(CC1)CC[C@H](OC1=CC=C(C(=O)C2=CNC3=CC=CC=C23)C=C1)C1=CC=C(C=C1)C | C36H37N3O3
